US09359371B2
In THF (10 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (100 mg, 0.22 mmol) and 7-methyl-2,7-diazaspiro[4.5]decane (42 mg, 0.27 mmol). Triethylamine (68 mg, 0.67 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 4 h, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (DCM/methanol=20/1) to give 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[4.5]decan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide as a white solid (20 mg, 17% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.22 mmol, 100 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | 7-methyl-2,7-diazaspiro[4.5]decane | 0.27 mmol, 42 mg | CN1CC2(CCNC2)CCC1 | C9H18N2
reactant | Triethylamine | 0.67 mmol, 68 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[4.5]decan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 20 mg, 17% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)N2CC3(CC2)CN(CCC3)C)C=CC1OC | C27H33ClN8O2
